US04894438
In 200 ml of 1.5N NEM/DMF mixture, 45.2 g (0.2 mol) of H-Lys(Z)-CHA.HCl was dissolved, and 35.3 g (0.1 mol) of BOC-Leu-SDP was added thereto at 0° to 5° C. The reaction was carried out at room temperature for 18 hours. After the reaction, the solvent was removed by distillation under reduced pressure. The residue was dissolved in 1500 ml of AcOEt and washed with 500 ml of a cooled 5% HCl solution twice, and 500 ml of a saturated saline solution twice, followed by decoloration and drying over anhydrous magnesium sulfate and active carbon. After drying, the magnesium sulfate and active carbon were filtered and the solvent was removed by distillation under reduced pressure to yield crude BOC-Leu-Lys(Z)-CHA. This was recrystallized from a mixed solvent of AcOEt/ether/n-hexane to give 35.9 g (57.1%) of BOC-Leu-Lys(Z)-CHA.

reactant | H-Lys(Z) | 0.2 mol, 45.2 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C14H20N2O4
reactant | HCl | Cl | ClH
reactant | BOC-Leu | 0.1 mol, 35.3 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
solvent | DMF | CN(C)C=O | C3H7NO
product | BOC-Leu-Lys(Z) | 35.9 g, 57.1% | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C25H39N3O7
